US08685974B2
A mixture of 1-(5-chloro-2-thienyl)-3-(dimethylamino)-2-(2-chloropyridin-4-yl)prop-2-en-1-one (10 mmol), hydrazine hydrate (20 mmol) in 90 mL ethanol was stirred at 80° C. for 1.5 h. The solvent was evaporated under reduced pressure to afford 3 g 2-chloro-4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine (95% yield).

reactant | 1-(5-chloro-2-thienyl)-3-(dimethylamino)-2-(2-chloropyridin-4-yl)prop-2-en-1-one | 10 mmol | ClC1=CC=C(S1)C(C(=CN(C)C)C1=CC(=NC=C1)Cl)=O | C14H12Cl2N2OS
reactant | hydrazine hydrate | 20 mmol | O.NN
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 2-chloro-4-[3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine | 3 g, 95% yield | ClC1=NC=CC(=C1)C=1C(=NNC1)C=1SC(=CC1)Cl | C12H7Cl2N3S
